US05914351
2-Chloro-5-nitrobenzaldehyde (18.6 g), ethylene glycol (18.6 ml), p-toluenesulfonic acid (monohydrate), (0.1 g), were refluxed in toluene (150 mL) for 3 hours. Water was removed azeotropically with a Dean-Stark trap. The reaction mixture was then transfered to seperatory funnel, washed with aqueous bicarbonate, water, dried (MgSO4), filtered and evaporated producing 22.2 g of 2-(2- chloro-5-nitrophenyl-1,3-dioxolane as a white solid, m.p. 78-81° C.

reactant | 2-Chloro-5-nitrobenzaldehyde | 18.6 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | ethylene glycol | 18.6 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 2- chloro-5-nitrophenyl-1,3-dioxolane | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1OCCO1 | C9H8ClNO4
